US07592477B2
A mixture of 3,5-dibromo-4-aminomethyl benzamide (40 g, 0.129 mol), methanol (500 mL) and an aqueous solution of NaOH (10%, 310 mL) was refluxed for 20 h. The reaction mixture was concentrated to 150 mL and cooled to 0° C. The solid precipitate obtained was filtered, washed with diethyl ether (500 mL). The solid obtained was acidified with an aqueous solution of HCl (1.5 N, 100 mL) to pH=6 to give solid precipitate. The solid was filtered, washed with water and dried under vacuum to give 2,6-dibromo-4-carboxy benzylamine (35 g, 87%) as a solid.

reactant | 3,5-dibromo-4-aminomethyl benzamide | 0.129 mol, 40 g | BrC=1C=C(C(=O)N)C=C(C1CN)Br | C8H8Br2N2O
reactant | NaOH | 310 mL | [OH-].[Na+]
reactant | HCl | 1.5 N, 100 mL | Cl | ClH
solvent | methanol | 500 mL | CO | CH4O
product | 2,6-dibromo-4-carboxy benzylamine | 35 g, 87% | BrC1=C(CN)C(=CC(=C1)C(=O)O)Br | C8H7Br2NO2
